US04017500
In a similar manner by substituting the 3-cyano-2-methylpyridine with equivalent quantities of 3-cyano-2-ethylpyridine, 3-cyano-2-benzylpyridine, 3-cyano-2-phenethylpyridine and 3-cyano-2-phenylpropylpyridine and by substantially following the procedure of this example there is produced 1-amino-3(2-ethyl-pyridyl)-4-methyl-2,5-naphthyridine; 1-amino-3-(2-benzyl-3-pyridyl)-4-phenyl-2,5-naphthyridine; 1-amino-3-(2-benzyl-3-pyridyl)-4-phenyl-2,5-naphthyridine; 1-amino-3-(2-phenethyl-3-pyridyl)-4-benzyl-2,5-naphthyridine; 1-amino-3-(2-phenylpropyl-3-pyridyl)-4-phenethyl-2,5-naphthyridine, respectively. Similarly, in those instances wherein it is desired to produce those compounds bearing substituents on the pyridyl, phenyl and benzyl moieties of the foregoing then, as expected, the appropriately substituted starting reactants are then similarly reacted.

reactant | 3-cyano-2-methylpyridine | C(#N)C=1C(=NC=CC1)C | C7H6N2
reactant | 3-cyano-2-ethylpyridine | C(#N)C=1C(=NC=CC1)CC | C8H8N2
reactant | 3-cyano-2-benzylpyridine | C(#N)C=1C(=NC=CC1)CC1=CC=CC=C1 | C13H10N2
reactant | 3-cyano-2-phenethylpyridine | C(#N)C=1C(=NC=CC1)CCC1=CC=CC=C1 | C14H12N2
reactant | 3-cyano-2-phenylpropylpyridine | C(#N)C=1C(=NC=CC1)CC(C)C1=CC=CC=C1 | C15H14N2
product | 1-amino-3(2-ethyl-pyridyl)-4-methyl-2,5-naphthyridine | NC1=NC(=C(C2=NC=CC=C12)C)C=1C(=NC=CC1)CC | C16H16N4
